US09376441B2
To a solution of 6-(1-tert-butyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-4-ol (138 mg, 0.538 mmol) in acetonitrile (6 mL) was added N-bromosuccinimide (105 mg, 0.590 mmol). The solution was stirred at room temperature for 1 h. The reaction was diluted with dichloromethane, washed with water and 2N NaOH. The combined aqueous layers were neutralized and extracted with ethyl acetate. The combined organic layers were washed with brine, dried, filtered and concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel to afford 3-bromo-6-(1-tert-butyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-4-ol.

reactant | 6-(1-tert-butyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-4-ol | 0.538 mmol, 138 mg | C(C)(C)(C)N1N=CC(=C1)C=1C=C(C=2N(C1)N=CC2)O | C14H16N4O
reactant | N-bromosuccinimide | 0.590 mmol, 105 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-bromo-6-(1-tert-butyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-4-ol | BrC=1C=NN2C1C(=CC(=C2)C=2C=NN(C2)C(C)(C)C)O | C14H15BrN4O
